US07482392B2
I. Synthesis of 2-bromo-1-{4-[4-(2-bromo-2-methyl-propionyl)-phenoxy]-phenyl}-2-methyl-propan-1-one.
To a solution of 5 g (29.37 mmols) of diphenylether and 15.23 g (64.61 mmols) of alpha-bromoisobutrylbromide (purity 97.5% by weight) in 50 ml of dichloromethane in about 30′ 8.61 g (64.61 mmols) of aluminum trichloride were added, maintaining the temperature between 0° and 5° C. After 1.5 h the reaction mixture was poured in a mixture of 200 ml of water and ice and 4 ml of 37% HCl. The organic phase was separated and washed with brine, dried on sodium sulphate, and filtered, A sample obtained after evaporation of the solvent was analysed.

reactant | diphenylether | 29.37 mmols, 5 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | alpha-bromoisobutrylbromide | 64.61 mmols, 15.23 g | BrC(C(=O)Br)(C)C | C4H6Br2O
reactant | aluminum trichloride | 64.61 mmols, 8.61 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | HCl | 4 ml | Cl | ClH
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | 200 ml | O | H2O
product | 2-bromo-1-{4-[4-(2-bromo-2-methyl-propionyl)-phenoxy]-phenyl}-2-methyl-propan-1-one | BrC(C(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)C(C(C)(C)Br)=O)(C)C | C20H20Br2O3
